US07786132B2
(i) 5-(2-Chloropyrimidin-4-yl)thiophene-2-carbonitrile
A solution of 0.22 g (1.4 mmol) of 5-cyanothiophen-2-ylboronic acid, 0.21 g (1.4 mmol) of 2,4-dichloropyrimidine and 49 mg (0.070 mmol) of bis(triphenylphosphine)palladium(II) chloride in 2 mL of a 2 M Na2CO3 aqueous solution and 5 mL of 1,4-dioxane was as heated in a microwave for 30 min at 140° C., then cooled to rt, diluted with CH2Cl2 and MeOH, and dried over MgSO4. The organic solvent was removed in vacuo, and the resulting solid was purified by flash chromatography eluting with a linear gradient of 50% EtOAc in hexane to neat EtOAc to deliver the title compound. MS (M+H)+ 222.

reactant | 5-cyanothiophen-2-ylboronic acid | 1.4 mmol, 0.22 g | C(#N)C1=CC=C(S1)B(O)O | C5H4BNO2S
reactant | 2,4-dichloropyrimidine | 1.4 mmol, 0.21 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.070 mmol, 49 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(2-Chloropyrimidin-4-yl)thiophene-2-carbonitrile | ClC1=NC=CC(=N1)C1=CC=C(S1)C#N | C9H4ClN3S
